US08609692B2
6-fluoro-2,2-dimethylchroman-4-one
In a 500 mL round-bottomed flask was added 1-(5-fluoro-2-hydroxyphenyl)ethanone (20.0 g, 130 mmol, Aldrich Chemical), propan-2-one (19.0 mL, 260 mmol), and pyrrolidine (21.5 mL, 260 mmol) in methanol (150 mL) to give a orange solution. The reaction mixture was stirred at ambient temperature for 48 h. The reaction mixture was poured into EtOAc (200 mL) and washed with 1N HCl (50 mL), saturated NaHCO3 (50 mL), and brine (50 mL). The organic portion was dried (Na2SO4), filtered, and concentrated to provide an orange residue which was purified by silica gel chromatography (gradient elution, 0-20% EtOAc/hexanes) to provide the title compound (14.2 g, 73.1 mmol, 56%) as a white solid. MS (DCI/NH3) m/z 208 (M+NH4)+.

reactant | 1-(5-fluoro-2-hydroxyphenyl)ethanone | 130 mmol, 20.0 g | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
reactant | propan-2-one | 260 mmol, 19.0 mL | CC(C)=O | C3H6O
reactant | pyrrolidine | 260 mmol, 21.5 mL | N1CCCC1 | C4H9N
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 150 mL | CO | CH4O
product | 6-fluoro-2,2-dimethylchroman-4-one | 73.1 mmol, 14.2 g, 56% | FC=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H11FO2
